US08686005B2
2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione:
To a solution of 2-(4-chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione (448.3 mg, 1.35 mmol) and (R)-1-amino-3-(2,4-dimethyl-phenoxy)-propan-2-ol (303.0 mg, 1.55 mmol) in EtOH (10 mL) was added Et3N (410 mg, 4.05 mmol). After it was heated at 100° C. for 14 h, the reaction mixture was concentrated under reduced pressure. The chromatography of the crude residue (150:10:1 CH2Cl2/MeOH/28% aqueous NH4OH) afforded the title compound (498 mg, 45%). 1H NMR (DMSO-d6) δ 1.60 (m, 2H), 1.95 (m, 2H), 2.18 (s, 3H, CH3), 2.18 (s, 3H, CH3), 2.21 (s, 3H, CH3), 2.39 (m, 2H), 2.90 (m, 2H), 3.57 (m, 1H), 3.71 (m, 1H), 3.90-4.08 (3H), 4.18 (m, 1H), 5.55 (d, J=6 Hz, 1H, NH), 6.22 (d, J=6 Hz, 1H), 6.83 (d, J=6 Hz, 1H), 6.92 (d, J=6 Hz, 1H), 6.97 (s, 1H), 7.39 (d, J=6 Hz, 1H), 7.64 (s, 1H), 8.09 (s, 1H), 10.96 (br s, 1H, NH), 11.31 (br s, 1H, NH); ESI-MS m/z 571.3 (MH+).

reactant | 2-(4-chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione | 1.35 mmol, 448.3 mg | ClC1=C(C(NC=C1)=O)C=1NC2=CC=3C(N(C(C3C=C2N1)=O)C1CCN(CC1)C)=O | C20H18ClN5O3
reactant | (R)-1-amino-3-(2,4-dimethyl-phenoxy)-propan-2-ol | 1.55 mmol, 303.0 mg | NC[C@H](COC1=C(C=C(C=C1)C)C)O | C11H17NO2
reactant | Et3N | 4.05 mmol, 410 mg | CCN(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione | 498 mg, 45% | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C=2NC3=CC=4C(N(C(C4C=C3N2)=O)C2CCN(CC2)C)=O)O)C=CC(=C1)C | C31H34N6O5
